US04187110
80 g (0.18 mol) of p-n-tetradecyloxy-ω-(p-nitrophenyl)acetophenone prepared as described above was dissolved in 400 cc of chloroform and to the solution 28 g (0.18 mol) of bromine dissolved in 50 cc of chloroform was gradually added dropwise while refluxing with heating. The mixture was washed with water and dried with anhydrous sodium sulfate. Chloroform was distilled off under reduced pressure and 91 g of p-n-tetradecyloxy-ω-bromo-ω-(p-nitrophenyl)acetophenone was obtained after recrystallization from n-hexane. Yield: 95%, Melting Point: 55° to 56° C.

reactant | p-n-tetradecyloxy-ω-(p-nitrophenyl)acetophenone | 0.18 mol, 80 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C28H39NO4
reactant | bromine | 0.18 mol, 28 g | BrBr | Br2
solvent | chloroform | 400 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 cc | C(Cl)(Cl)Cl | CHCl3
product | p-n-tetradecyloxy-ω-bromo-ω-(p-nitrophenyl)acetophenone | 91 g, Yield: 95% | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)C(C(C1=CC=C(C=C1)[N+](=O)[O-])Br)=O | C28H38BrNO4
